US06147255
3-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)phenylacrylic acid
In a similar manner to Example 9(b), by reaction of 73.4 g (0.30 mol) of 3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylboronic acid with 44.7 g (0.20 mol) of 4-bromophenylacrylic acid, and after recrystallization from ethanol, 48 g (61%) of 3-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)phenylacrylic acid are obtained, with a melting point of 207-8° C.

reactant | 3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylboronic acid | 0.30 mol, 73.4 g | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)B(O)O | C15H23BO2
reactant | 4-bromophenylacrylic acid | 0.20 mol, 44.7 g | BrC1=CC=C(C=C1)C(C(=O)O)=C | C9H7BrO2
product | 3-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)phenylacrylic acid | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=1C=C(C=CC1)C(C(=O)O)=C | C24H28O2
